US04254146
2-(3-Benzoyl-2-nitrophenyl)-2-methylpropanedioic Acid Diethyl Ester
A slurry of 0.6 g (0.012 mole) of 50% sodium hydride/oil (washed, petroleum ether) in a 10 ml dimethylformamide was treated dropwise with a solution of 3.6 g (0.009 mole) of 2-(3-benzoyl-2-nitrophenyl)propanedioic acid diethyl ester in 20 ml of dimethylformamide. The mixtue was stirred for 5 min and the 4 ml (9.1 g, 0.065 mole) of methyliodide was added and the solution stirred at ambient temperature overnight. The solution was poured into 500 ml of cold water and let stand overnight. The aqueous layer was decanted and the gummy residue was dissolved in diethylether. The ether solution was washed with water and saturated sodium chloride solution, dried over sodium sulfate and concentrated to give 3.5 g (95%) of a gray solid, m.p. 102°-104° C. (recrystallized from 2-propanol).

reactant | sodium hydride | 0.012 mole, 0.6 g | [H-].[Na+]
reactant | 2-(3-benzoyl-2-nitrophenyl)propanedioic acid diethyl ester | 0.009 mole, 3.6 g | C(C)OC(C(C(=O)OCC)C1=C(C(=CC=C1)C(C1=CC=CC=C1)=O)[N+](=O)[O-])=O | C20H19NO7
reactant | methyliodide | 0.065 mole, 4 ml, 9.1 g | CI | CH3I
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(3-Benzoyl-2-nitrophenyl)-2-methylpropanedioic Acid Diethyl Ester | C(C)OC(C(C(=O)OCC)(C)C1=C(C(=CC=C1)C(C1=CC=CC=C1)=O)[N+](=O)[O-])=O | C21H21NO7
